US05183921
To crude E-α-hydroxyimino-2-phenoxyphenylacetic acid methyl ester (39.6 g, 0.0747 mole, purity: 51.2%) were added methanol (100 ml) and 40% aqueous solution of methylamine (15.45 g, 0.199 mole) and the mixture was stirred at room temperature for 15 hours. Then, 40% aqueous solution of methylamine (7.73 g, 0.0995 mole) was added to the mixture which was stirred in an oil bath at 70° C. for 6 hours. After completion of the reaction, water (200 ml) and toluene (100 ml) were added to the reaction mixture, which was stirred with ice cooling for one hour. The precipitated crystals were filtered off and recrystallized (methanol/toluene) to obtain E-2-hydroxyimino-N-methyl-2-(2-phenoxyphenyl)acetamide (12.31 g, yield: 60.1%) as colorless crystals (melting point: 183°-184.5° C.).

reactant | E-α-hydroxyimino-2-phenoxyphenylacetic acid methyl ester | 0.0747 mole, 39.6 g | COC(/C(=N/O)/C1=C(C=CC=C1)OC1=CC=CC=C1)=O | C15H13NO4
reactant | methanol | 100 ml | CO | CH4O
reactant | methylamine | 0.199 mole, 15.45 g | CN | CH5N
reactant | methylamine | 0.0995 mole, 7.73 g | CN | CH5N
reactant | water | 200 ml | O | H2O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | E-2-hydroxyimino-N-methyl-2-(2-phenoxyphenyl)acetamide | 12.31 g, yield: 60.1% | O\N=C(\C(=O)NC)/C1=C(C=CC=C1)OC1=CC=CC=C1 | C15H14N2O3
